US05939431
3-[[4-[[[6-(3-methyl-2-pyridinyl)-1,7-naphthyridin-8-yl]amino]sulfonyl]-phenyl]amino]-3-oxopropanoic acid
Heat a stirred suspension of ethyl 3-[[4-[[[6-(3-methyl-2-pyridinyl)-1,7-naphthyridin-8-yl]amino]sulfonyl]-phenyl]amino]-3-oxopropanoate (387 mg, 0.765 mmol) in 0.125 N aqueous sodium hydroxide solution at 60° C. for 2 hours. Allow the reaction solution to cool to room temperature, and adjust the pH of the solution to 4-5 by the dropwise addition of glacial acetic acid. Dilute with water (50 mL) and filter. Triturate the isolate solid with methanol (1.5 mL), dilute with water (50 mL), filter and vacuum dry to obtain the title compound as a monohydrate, C23H19N5O5S.H2O, mp 163-164° C. (dec). FABMS: MH+ 478 (100%).

reactant | ethyl 3-[[4-[[[6-(3-methyl-2-pyridinyl)-1,7-naphthyridin-8-yl]amino]sulfonyl]-phenyl]amino]-3-oxopropanoate | 0.765 mmol, 387 mg | CC=1C(=NC=CC1)C=1C=C2C=CC=NC2=C(N1)NS(=O)(=O)C1=CC=C(C=C1)NC(CC(=O)OCC)=O | C25H23N5O5S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 0.125 N | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 3-[[4-[[[6-(3-methyl-2-pyridinyl)-1,7-naphthyridin-8-yl]amino]sulfonyl]-phenyl]amino]-3-oxopropanoic acid | CC=1C(=NC=CC1)C=1C=C2C=CC=NC2=C(N1)NS(=O)(=O)C1=CC=C(C=C1)NC(CC(=O)O)=O | C23H19N5O5S
